US09163012B2
To a stirred solution of tert-butyl 3-(5-methylpyridin-2-yl)pyrrolidine-1-carboxylate (260 mg, 1.0 mmol) in dry CH2Cl2 (3 mL) was added TFA (2 mL, 20% in CH2Cl2) dropwise at 0° C. The reaction mixture was stirred at rt for 3 h. TLC showed the disappearance of starting material. The reaction mixture was concentrated under vacuum to afford crude 5-methyl-2-(pyrrolidin-3-yl)pyridine (170 mg, 96%), which was used for the next step without purification.

reactant | tert-butyl 3-(5-methylpyridin-2-yl)pyrrolidine-1-carboxylate | 1.0 mmol, 260 mg | CC=1C=CC(=NC1)C1CN(CC1)C(=O)OC(C)(C)C | C15H22N2O2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 5-methyl-2-(pyrrolidin-3-yl)pyridine | 170 mg, 96% | CC=1C=CC(=NC1)C1CNCC1 | C10H14N2
